### PR TITLE
Add bit decomposition correctness results

### PR DESCRIPTION
**Pull request by kustosz**
Finishes the example, barring one `sorry` waiting for @mpenciak :) 
Also spiced up the demo by using an unconstrained func, just to show that we can

### CODE REVIEW

File: Examples/Merkle/Merkle/Spec.lean [hunk 1]
```diff
@@ -144,69 +155,203 @@ theorem rotateLeft_spec : STHoare lp env ⟦N < 254⟧ (rotate_left.fn.body _ h!
...
+        (fun _ => [val ↦ ⟨.field, ↑(v.val / 2)⟩])
+      · simp only [ZMod.div2_on_vals]
+        have : i % 4294967296 = i := by
+          apply Nat.mod_eq_of_lt; linarith
+        fin_cases «#v_11»
+        · apply STHoare.iteTrue_intro
+          steps
+          casesm* ∃_,_
+          subst_vars
+
```
Comment (mpenciak) [inline Examples/Merkle/Merkle/Spec.lean:276]: Could clean this up
